US05338857
(3) 3-(4-Methoxyphenyl)-5-propionylisoxazole
Added to 160 ml of dichloromethane were 8.07 g (34.6 mmol) of 5-(1-hydroxypropyl)-3-(4-methoxyphenyl)isoxazole prepared in the above procedure (2), 4.83 g (58.9 mmol) of sodium acetate and 12.7 g of "Florisil" (trade mark, Wakojunyaku Inc.). While the resultant mixture was stirred vigorously, 12.7 g (58.9 mmol) pyridinium chlorochromate were added in small portions. After the mixture was stirred at room temperature for 4 hours, an insoluble material was filtered off and the solvent was distilled off. The residue was recrystallized from n-hexane, whereby 3-(4-methoxyphenyl)-5-propionylisoxazole was colorless crystals. Analytical results of the crystals obtained: Yield: 5.73 g (72%). Melting point: 135°-136° C.

reactant | 5-(1-hydroxypropyl)-3-(4-methoxyphenyl)isoxazole | 34.6 mmol, 8.07 g | OC(CC)C1=CC(=NO1)C1=CC=C(C=C1)OC | C13H15NO3
reactant | sodium acetate | 58.9 mmol, 4.83 g | C(C)(=O)[O-].[Na+]
reactant | Florisil | [O-][Si](=O)[O-].[Mg+2]
reactant | pyridinium chlorochromate | 58.9 mmol, 12.7 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 160 ml | ClCCl | CH2Cl2
product | 3-(4-Methoxyphenyl)-5-propionylisoxazole | COC1=CC=C(C=C1)C1=NOC(=C1)C(CC)=O | C13H13NO3
